### PR TITLE
[Merged by Bors] - feat(Topology/Continuous): continuous iff `f '' closure s ⊆ closure (f '' s)` or `f ⁻¹' (interior s) ⊆ interior (f ⁻¹' s)`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Proofs from https://math.stackexchange.com/a/405130 / https://math.stackexchange.com/a/1209229

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Continuous.lean [hunk 1]
```diff
@@ -97,6 +97,11 @@ theorem preimage_interior_subset_interior_preimage {t : Set Y} (hf : Continuous
     f ⁻¹' interior t ⊆ interior (f ⁻¹' t) :=
   interior_maximal (preimage_mono interior_subset) (isOpen_interior.preimage hf)
 
+theorem preimage_interior_subset_interior_preimage_iff_continuous :
+    (∀ s, f ⁻¹' (interior s) ⊆ interior (f ⁻¹' s)) ↔ Continuous f := by
```
Comment (plp127) [inline Mathlib/Topology/Continuous.lean]: I would flip these `Iff`s the other way around

Comment (SnirBroshi) [reply Mathlib/Topology/Continuous.lean]: I'd love to, but isn't the usual rule to put the more complicated part on the left, even for theorems that aren't tagged simp? Though topology seems to break that rule a lot for some reason

Comment (plp127) [reply Mathlib/Topology/Continuous.lean]: No, that doesn't sound right...
For example, `linearIndepOn_iff`, `hasFDerivAt_iff_tendsto`, `MeasureTheory.Measure.lt_iff` all have the "more complicated part" on the right.

Comment (SnirBroshi) [reply Mathlib/Topology/Continuous.lean]: Yeah but the examples don't necessarily mean that the rule is wrong, maybe they're just not following it and need to be fixed. OTOH maybe it means I can also get away with breaking the rule?

Comment (plp127) [reply Mathlib/Topology/Continuous.lean]: I don't think there is such a rule. Where did you find out about this rule?

Comment (SnirBroshi) [reply Mathlib/Topology/Continuous.lean]: In multiple code reviews, I'll send references later

Edit: https://github.com/leanprover-community/mathlib4/pull/30542#discussion_r2432712712

Comment (vihdzp) [reply Mathlib/Topology/Continuous.lean]: This is in fact a general guideline we have, mostly so that `simp` works correctly. But given that one would not reasonably encounter the LHS in a proof (unless they used this theorem beforehand!), I think it makes sense to flip the lemma around.

Comment (SnirBroshi) [reply Mathlib/Topology/Continuous.lean]: Flipped, thanks!

File: Mathlib/Topology/Continuous.lean [hunk 2]
```diff
@@ -217,6 +222,12 @@ theorem closure_subset_preimage_closure_image (h : Continuous f) :
     closure s ⊆ f ⁻¹' closure (f '' s) :=
   (mapsTo_image _ _).closure h
 
+theorem continuous_iff_image_closure_subset_closure_image :
+    Continuous f ↔ ∀ s, f '' closure s ⊆ closure (f '' s) := by
+  refine ⟨fun h s ↦ image_closure_subset_closure_image h, fun h ↦ continuous_iff_isClosed.mpr ?_⟩
+  refine fun s hs ↦ isClosed_of_closure_subset <| image_subset_iff.mp <| subset_trans (h _) ?_
+  exact subset_trans (closure_mono <| image_preimage_subset f s) hs.closure_subset
```
Comment (j-loreaux) [inline Mathlib/Topology/Continuous.lean]: I find this more readable.
```suggestion
    Continuous f ↔ ∀ s, f '' closure s ⊆ closure (f '' s) where
  mp h s := image_closure_subset_closure_image h
  mpr h := continuous_iff_isClosed.mpr fun s hs ↦ isClosed_of_closure_subset <| by
    grw [image_subset_iff.mp <| h (f ⁻¹' s), image_preimage_subset, hs.closure_subset]
```

File: Mathlib/Topology/Continuous.lean [hunk 3]
```diff
@@ -97,6 +97,11 @@ theorem preimage_interior_subset_interior_preimage {t : Set Y} (hf : Continuous
     f ⁻¹' interior t ⊆ interior (f ⁻¹' t) :=
   interior_maximal (preimage_mono interior_subset) (isOpen_interior.preimage hf)
 
+theorem continuous_iff_preimage_interior_subset_interior_preimage :
+    Continuous f ↔ ∀ s, f ⁻¹' (interior s) ⊆ interior (f ⁻¹' s) := by
+  refine ⟨fun h s ↦ preimage_interior_subset_interior_preimage h, fun h ↦ ⟨fun s hs ↦ ?_⟩⟩
+  exact subset_interior_iff_isOpen.mp <| by grw [← h, hs.interior_eq]
```
Comment (j-loreaux) [inline Mathlib/Topology/Continuous.lean]:
```suggestion
    Continuous f ↔ ∀ s, f ⁻¹' (interior s) ⊆ interior (f ⁻¹' s) where
  mp h s := preimage_interior_subset_interior_preimage h
  mpr h := ⟨fun s hs ↦ subset_interior_iff_isOpen.mp <| by grw [← h, hs.interior_eq]⟩
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
